US05167949
c) 2-Propoxymethyl-4(3H)-pteridinone
Obtained using the procedure described in Example 1, starting with 4.6 g (0.033 mole) of 3-amino-2-pyrazinecarboxamide, 29.3 g (0.133 mole) of triethyl orthopropoxyacetate and 30 ml of acetic anhydride. Yld: 2.6 g (36%), m.p. 158°-160° C. (ethanol).

reactant | 3-amino-2-pyrazinecarboxamide | 0.033 mole, 4.6 g | NC=1C(=NC=CN1)C(=O)N | C5H6N4O
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethanol | C(C)O | C2H6O
product | 2-Propoxymethyl-4(3H)-pteridinone | C(CC)OCC1=NC2=NC=CN=C2C(N1)=O | C10H12N4O2
